US05556853
In substantially the same manner as in Example 5, N-tosyl-1,4-diaminobutane (1.27 g) was condensed with Boc-L-Phe-OH (1.47 g) to give N-(Boc-L-phenylalanyl)-N'-tosyl-1,4-diaminobutane (2.19 g) (yield 85%). After Boc group elimination with TFA, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate (774 mg) as obtained in Reference Example 8 to yield the title compound (compound 32; 1.55 g) [yield 67%].

reactant | N-tosyl-1,4-diaminobutane | 1.27 g | S(=O)(=O)(C1=CC=C(C)C=C1)NCCCCN | C11H18N2O2S
reactant | Boc-L-Phe-OH | 1.47 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
product | N-(Boc-L-phenylalanyl)-N'-tosyl-1,4-diaminobutane | 2.19 g, yield 85% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NCCCCNS(=O)(=O)C1=CC=C(C)C=C1 | C25H35N3O5S
